US06420364B1
(b) 4,4-Dimethyl-2-[(morpholine-4-carbonyl)-amino]-pentanoic Acid Methyl Ester
2-Amino-4,4-dimethyl-pentanoic acid methyl ester (5.35 g, 27.4 mmol) was dissolved in 100 mL of dichloromethane. Hunig's base (7.07 g, 54.7 mmol) and 4-morpholinecarbonyl chloride (4.08 g, 27.4 mmol) were added and the reaction was stirred at ambient temperature 16 h. The reaction mixture was concentrated in vacuo and taken up in 150 mL EtOAc. A white precipitate formed and was filtered and washed with EtOAc. EtOAc solutions were combined and washed with 3×50 mL 1 N HCl (aq), 3×50 saturated NaHCO3 (aq), and 1×50 mL brine. The organic layer was dried over Na2SO4, decanted, and concentrated to a white solid (6.33 g). MS, m/z 273=M+1.

reactant | 2-Amino-4,4-dimethyl-pentanoic acid methyl ester | 27.4 mmol, 5.35 g | COC(C(CC(C)(C)C)N)=O | C8H17NO2
reactant | Hunig's base | 54.7 mmol, 7.07 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-morpholinecarbonyl chloride | 27.4 mmol, 4.08 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4,4-Dimethyl-2-[(morpholine-4-carbonyl)-amino]-pentanoic Acid Methyl Ester | COC(C(CC(C)(C)C)NC(=O)N1CCOCC1)=O | C13H24N2O4
